US04680300
2(C) 1-Amino-8-(1-naphthyloxy)octane
A solution of 10.0 g N-[8-(1-naphthyloxy)octyl]phthalimide, prepared as above, and 200 ml of ethanol and 3.2 ml of hydrazine hydrate was refluxed for 18 hours. The solution was evaporated to about 100 ml, and diluted with 200 ml of water, then basified with aqueous potassium hydroxide and extracted with hexane. The extract was washed, dried and evaporated to give the title compound as an oil which was converted to the hydrochloride, mp 90.5°-92°.

reactant | N-[8-(1-naphthyloxy)octyl]phthalimide | 10.0 g | C1(=CC=CC2=CC=CC=C12)OCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C26H27NO3
reactant | hydrazine hydrate | 3.2 ml | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Amino-8-(1-naphthyloxy)octane | NCCCCCCCCOC1=CC=CC2=CC=CC=C12 | C18H25NO
